US08487094B2
To a solution of 1,1′-bi-2-naphthol (0.2280 g, 0.80 mmol, 0.26 equiv), CH2Cl2 (5 mL) and titanium(IV) isopropoxide (0.2243 g, 0.79 mmol, 0.26 equiv) were added 2-propanol (3.1620 g, 52.6 mmol, 17 equiv), tetraallylstannane (1.2538 g, 4.43 mmol, 1.43 equiv), and 3-chloro-1-(4-fluorophenyl)propan-1-one (0.5760 g, 3.09 mmol, 1.0 equiv) successively. The reaction mixture was stirred at rt under nitrogen for 22 h. The reaction was quenched with satd aq NH4Cl and extracted with EtOAc. The organic layer was dried over Na2SO4. After the solvents were evaporated, the residue was purified by chromatography on silica gel eluted with hexanes/ethyl acetate to afford 1-chloro-3-(4-fluorophenyl)hex-5-en-3-ol as an oil.

reactant | 1,1′-bi-2-naphthol | 0.80 mmol, 0.2280 g, 0.26 equiv | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
reactant | 2-propanol | 52.6 mmol, 3.1620 g, 17 equiv | CC(C)O | C3H8O
reactant | tetraallylstannane | 4.43 mmol, 1.2538 g, 1.43 equiv | C(C=C)[Sn](CC=C)(CC=C)CC=C
reactant | 3-chloro-1-(4-fluorophenyl)propan-1-one | 3.09 mmol, 0.5760 g, 1.0 equiv | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
catalyst | titanium(IV) isopropoxide | 0.79 mmol, 0.2243 g, 0.26 equiv | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-chloro-3-(4-fluorophenyl)hex-5-en-3-ol | ClCCC(CC=C)(O)C1=CC=C(C=C1)F | C12H14ClFO
